US06353010B1
2-(1-Hydroxyethyl)-4-methoxybenzimidazole
2,3-Diaminoanisole (5.88 g) and lactic acid (5.6 ml) were combined, treated with concentrated hydrochloric acid (45 ml) and heated at 100° C. for 18 h. The reaction was cooled to 0° C., neutralised with ammonium hydroxide solution and extracted with ethyl acetate (3×45 ml). The combined organic layers were dried over magnesium sulphate, filtered and the filtrate evaporated in vacuo and the residue purified by flash chromatography on silica eluting with ethyl acetate to yield the desired product as a reddish-brown solid (4.91 g).

reactant | 2,3-Diaminoanisole | 5.88 g | NC1=C(C=CC=C1N)OC | C7H10N2O
reactant | lactic acid | 5.6 ml | C(C(O)C)(=O)O | C3H6O3
reactant | hydrochloric acid | 45 ml | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-(1-Hydroxyethyl)-4-methoxybenzimidazole | 4.91 g | OC(C)C=1NC2=C(N1)C=CC=C2OC | C10H12N2O2
